US06953790B2
Step E. 5-Methoxy-2-oxo-1-(1-t-butoxycarbonylpiperidin-4-yl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine
Carbonyldiimidazole (1.6 g, 9.8 mmol) was added to a solution of 2-amino-3-[(1-t-butoxycarbonylpiperidin-4-yl)amino]-6-methoxypyridine (1.29 g, 4.00 mmol) in acetonitrile (100 mL) at room temperature. The reaction was stirred until all the starting material was consumed. Methanol was added to the reaction and the solution stirred for several hours, then the solvent was evaporated in vacuo. The residue was dissolved in ethyl acetate, washed with water and saturated brine, and then dried over magnesium sulfate. The crude product was purified by chromatography (silica gel, 2.5% to 5% methanol in methylene chloride gradient elution), which gave the title compound. MS 349 (M+1) 1H NMR (500 MHz, CDCl3) δ 8.50 (br s, 1H), 7.29 (d, J=8 Hz, 1H), 6.43 (d, J=8 Hz, 1H), 4.46 (m, 1H), 4.31 (br s, 2H), 3.90 (s, 3H), 2.85 (br s, 2H), 2.13 (m, 2H), 1.85 (d, J=12 Hz, 2H), 1.50 (s, 9H).

reactant | Carbonyldiimidazole | 9.8 mmol, 1.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-3-[(1-t-butoxycarbonylpiperidin-4-yl)amino]-6-methoxypyridine | 4.00 mmol, 1.29 g | NC1=NC(=CC=C1NC1CCN(CC1)C(=O)OC(C)(C)C)OC | C16H26N4O3
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 5-Methoxy-2-oxo-1-(1-t-butoxycarbonylpiperidin-4-yl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine | COC1=CC=C2C(=N1)NC(N2C2CCN(CC2)C(=O)OC(C)(C)C)=O | C17H24N4O4
